US06831186B2
A slurry of 5-trimethylsilylpent-2-en-4-ynyltriphenyl-phosphonium bromide, a compound of formula (Q), (67.1 g, 0.14 mol) in THF (875 mL) was stirred under nitrogen, cooled in a dry ice acetonitrile bath (−30° C. internal), and treated with a solution of n-butyllithium (66.5 mL, 0.133 mol, 2M in hexane) via dropwise addition. The dry ice bath was replaced with an ice bath and the reaction was stirred for about 15 minutes until a homogeneous, red-colored mixture was obtained. The dry ice bath was replaced and the reaction mixture was cooled to about −30° C. The reaction mixture was treated with a solution of 1,1-dimethylethyl [[(2S,3S) 3-formyl-1,4-dioxaspiro[4,5]dec-2-yl]methoxy]acetate (40 g, 0.127 mol) in 125 mL of THF. The reaction mixture was stirred for 1 hour with the dry ice bath. With the internal temperature around −30° C., the reaction mixture was diluted with saturated potassium phosphate (pH=5). The aqueous layer was washed with ether (3×). Combined organic layers were washed with water and brine, dried, treated with silica gel, and concentrated. The residue was diluted with about 3:1 mixture of hexane to ethyl acetate to precipitate the impurities. The resulting slurry was filtered and the solid was washed with the hexane/ethyl acetate mixture. The filtrate was concentrated. The procedure was repeated using a mixture of ether and hexane (1:1) and treatment with silica gel to give 50.29 g of 1,1-dimethylethyl [[(2S,3R)-3-[(1Z,3E)-6-(trimethylsilyl)-1,3-hexadien-5-ynyl]-1,4-dioxaspiro[4,5]dec-2-yl]methoxy]ethanoate as an oil. Proton NMR analysis of the product indicated a 2:1 mixture of E,Z- to E,E-isomers. The data for the for the Z,E isomer can be extracted from the mixture: 1H NMR (CDCl3) δ 0.15 (s, 9H), 1.3 (m, 2H), 1.4 (s, 9H), 1.6 (m, 8H), 3.45 (m, 2H), 3.92 (m, 2H), 4.34 (m, 1H), 5.02 (m, 1H), 5.48 (dd, 1H), 5.6 (d, 1H), 6.16 (dd, 1H), 6.82 (dd, 1H) ppm.

reactant | 5-trimethylsilylpent-2-en-4-ynyltriphenyl-phosphonium bromide | [Br-].C[Si](C#CC=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C
reactant | n-butyllithium | 0.133 mol, 2M, 66.5 mL | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | 1,1-dimethylethyl [[(2S,3S) 3-formyl-1,4-dioxaspiro[4,5]dec-2-yl]methoxy]acetate | 0.127 mol, 40 g | C(=O)[C@@H]1[C@@H](OC2(O1)CCCCC2)COCC(=O)OC(C)(C)C | C16H26O6
solvent | THF | 875 mL | C1CCOC1 | C4H8O
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | potassium phosphate | pH=5 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 1,1-dimethylethyl [[(2S,3R)-3-[(1Z,3E)-6-(trimethylsilyl)-1,3-hexadien-5-ynyl]-1,4-dioxaspiro[4,5]dec-2-yl]methoxy]ethanoate | 50.29 g | C[Si](C#C/C=C/C=C\[C@@H]1[C@@H](OC2(O1)CCCCC2)COCC(=O)OC(C)(C)C)(C)C | C24H38O5Si
